US20010012901A1
A solution of N-(2-ethoxycarbonylmethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)benzamidine (1.54 g) in a mixture of ethanol (EtOH) (30 ml) and 1N NaOH (7.05 ml) was stirred at room temperature for 30 hours. EtOH was evaporated under reduced pressure to give a residue. A mixture of AcOEt and 1N HCl was added to the residue. The organic phase was washed with water and brine, and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to give N-(2-carboxymethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)benzamidine as a glass (1.49 g).

reactant | N-(2-ethoxycarbonylmethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)benzamidine | 1.54 g | C(C)OC(=O)CC1(OC2=C(C(=C(C(=C2CC1)C)S(=O)(=O)NC(C1=CC=CC=C1)=N)C)C)C | C24H30N2O5S
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 7.05 ml | [OH-].[Na+]
product | N-(2-carboxymethyl-2,5,7,8-tetramethylchroman-6-sulfonyl)benzamidine | 1.49 g | C(=O)(O)CC1(OC2=C(C(=C(C(=C2CC1)C)S(=O)(=O)NC(C1=CC=CC=C1)=N)C)C)C | C22H26N2O5S
